US07012075B2
To tert-butyl 3-{bis[(2,2,2-trichloroethoxy)carbonyl]amino}-4-bromo-1H-pyrazole-1-carboxylate (12.7 g, 20.73 mmol) in THF (200 mL) was added activated zinc powder (13.5 g, 207.3 mmol) followed by an aqueous solution of KH2PO4 (1.0 M, 41.5 mL, 41.5 mmol) dropwise and the reaction was stirred for 3 hours at rt. The zinc powder was filtered off, rinsed with Et2O and water, the aqueous phase extracted with Et2O (2×), and the combined organics dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 2/8) to afford tert-butyl 4-bromo-3-{[(2,2,2-trichloroethoxy)carbonyl]amino }-1H-pyrazole-1-carboxylate.

reactant | tert-butyl 3-{bis[(2,2,2-trichloroethoxy)carbonyl]amino}-4-bromo-1H-pyrazole-1-carboxylate | 20.73 mmol, 12.7 g | ClC(COC(=O)N(C1=NN(C=C1Br)C(=O)OC(C)(C)C)C(=O)OCC(Cl)(Cl)Cl)(Cl)Cl | C14H14BrCl6N3O6
reactant | KH2PO4 | 41.5 mmol, 1.0 M, 41.5 mL | OP(=O)(O)[O-].[K+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | zinc | 207.3 mmol, 13.5 g | [Zn] | Zn
product | tert-butyl 4-bromo-3-{[(2,2,2-trichloroethoxy)carbonyl]amino }-1H-pyrazole-1-carboxylate | BrC=1C(=NN(C1)C(=O)OC(C)(C)C)NC(=O)OCC(Cl)(Cl)Cl | C11H13BrCl3N3O4
